US06498154B1
A mixture of 2-amino-5-bromobenzonitrile (10 g, 50 mmol), 3-chlorophenyl boronic acid (9.5 g, 60 mmol), tetrakis(triphenylphosphine)-palladium (0) (3.5 g, 3 mmol), and sodium carbonate (13 g, 120 mmol) in a mixture of DME and water (100 mL/25 mL) was degassed to remove the oxygen and then heated to 85° C. under a blanket of nitrogen for 5 hours. The reaction mixture was cooled to ambient temperature and quenched with a saturated aqueous ammonium chloride solution (80 mL). Ethyl acetate (200 mL) was added, the organic layer was separated, and the aqueous layer was extracted with ethyl acetate (3×40 mL). The combined organic layers were washed with brine and dried with MgSO4. The solvent was removed in vacuo and the residue was purified by a silica gel flash chromatography (hexane:ethyl acetate/4:1) to afford 4-amino-3′-chloro-biphenyl-3-carbonitrile as an off-white solid (8 g, 87%): mp 118-119° C.; 1H-NMR (DMSO-d6) δ 7.80 (d, 1H, J=2.3 Hz), 7.65-7.72 (m, 2H), 7.57 (d, 1H, J=8.0 Hz), 7.42 (t, 1H, J=7.9 Hz), 7.31 (m, 1H), 6.87 (d, 1H, J=8.7 Hz), 6.29 (br, 2H); Anal. Calc. For C13H9ClN2: C, 68.28, H, 3.97, N, 12.25. Found: C, 67.68, H, 4.06, N, 11.89.

reactant | 2-amino-5-bromobenzonitrile | 50 mmol, 10 g | NC1=C(C#N)C=C(C=C1)Br | C7H5BrN2
reactant | 3-chlorophenyl boronic acid | 60 mmol, 9.5 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 120 mmol, 13 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | COCCOC | C4H10O2
solvent | water | 100 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)-palladium (0) | 3 mmol, 3.5 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-amino-3′-chloro-biphenyl-3-carbonitrile | 8 g, 87% | NC1=C(C=C(C=C1)C1=CC(=CC=C1)Cl)C#N | C13H9ClN2
